US07838547B2
4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(5-methylhexahydropyrrolo[3,4-b]pyrrol-1-yl)phenyl]amide
5-Methyloctahydropyrrolo[3,4-b]pyrrole (EP 0 393 424) was initially converted as described in Example 3 into 4-(5-methylhexahydropyrrolo[3,4-b]pyrrol-1-yl)-phenylamine and then reacted with carbonyldiimidazole and subsequently with 4-(4-chlorophenyl)piperidine. The product with the molecular weight of 439.01 (C25H31ClN4O); MS (ESI): 439 (M+H+) was obtained in this way.

reactant | 5-Methyloctahydropyrrolo[3,4-b]pyrrole | CN1CC2NCCC2C1 | C7H14N2
reactant | 4-(5-methylhexahydropyrrolo[3,4-b]pyrrol-1-yl)-phenylamine | CN1CC2N(CCC2C1)C1=CC=C(C=C1)N | C13H19N3
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 4-(4-Chlorophenyl)piperidine-1-carboxylic acid [4-(5-methylhexahydropyrrolo[3,4-b]pyrrol-1-yl)phenyl]amide | CN1CC2N(CCC2C1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl | C25H31ClN4O
